US07713994B2
6-Methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
A mixture of (4E)-6-methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione (117 mg, 0.50 mmole), N,N-dimethylformamide (1 mL) and 4-piperidin-1-ylmethyl-phenylamine (95 mg, 0.50 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator overnight. The reaction mixture is evaporated to dryness, taken up in 7.5% methanol in chloroform and passed through a short pad of Florisil eluting with 7.5% methanol in chloroform. The eluate is evaporated in vacuo, treated with acetonitrile, filtered and dried to give a yellow solid 152 mg (78%), mp 272-5° C. dec; MS (ESI): m/z 392.4 (M+H).

reactant | (4E)-6-methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.50 mmole, 117 mg | COC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C12H11NO4
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.50 mmole, 95 mg | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 152 mg, 78% | COC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C23H25N3O3
